US05229388
3-(4-Bromobutyl)-2,5,5-trimethyl-4-thiazolidinone
To a -73° C. solution of 3-(4-bromobutyl)-2-methyl-4-thiazolidinone (6.00 g), methyliodide (10.99 g) and THF (50 ml) under nitrogen was added lithium bis(trimethylsilyl)amide (0.0500 mol) in THF (50 ml) at a rate to maintain the internal temperature below -55° C. The resulting solution was stirred at <-55° C. for 10 minutes, allowed to warm to -40° C., and at which temperature 1N HCl (250 ml) was added. The aqueous mixture was extracted with 25% benzene/ether (3×125 ml). The combined extracts were washed with brine (200 ml), dried (Na2SO4), and concentrated to a liquid which was chromatographed on silica gel yielding 5.07 g of a liquid. The liquid was distilled to give 3.80 g of a clear liquid, b.p. 109°-114° C. at 0.20 mmHg.

reactant | 3-(4-bromobutyl)-2-methyl-4-thiazolidinone | 6.00 g | BrCCCCN1C(SCC1=O)C | C8H14BrNOS
reactant | methyliodide | 10.99 g | CI | CH3I
reactant | lithium bis(trimethylsilyl)amide | 0.0500 mol | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | HCl | 1N, 250 ml | Cl | ClH
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-(4-Bromobutyl)-2,5,5-trimethyl-4-thiazolidinone | 3.80 g | BrCCCCN1C(SC(C1=O)(C)C)C | C10H18BrNOS
